US04287341
i. 3-Benzoylpiperidine hydrochloride
The method is that of U.S. Pat. No. 3,576,810. To 500 ml. of thionyl chloride was added 85.6 g. (0.5 mole) of 1-acetylnipecotic acid. The stirred mixture was heated at ca. 60° C. for two hours and then the solvent was evaporated at reduced pressure. The crude acid chloride was taken up in 200 ml. of dry benzene and the resulting solution added slowly to a mixture of 133 g. (1.0 mole) of aluminum chloride in 400 ml. of dry benzene. After the addition was complete the mixture was refluxed one hour and then poured onto cracked ice. The organic layer was separated and the aqueous layer was extracted with benzene. The combined extracts were dried over magnesium sulfate and the solvent was evaporated at reduced pressure. The residual oil which did not crystallize on cooling was distilled at reduced pressure and the fraction boiling at 160°-170° C./0.05 mm. collected. The crude product weighed 50 g. A mixture of 50 g. of the crude 1-acetyl- 3-benzoylpyrrolidine and 200 ml. of 6 N hydrochloric acid was refluxed 12 hours, cooled and extracted with benzene. The combined extracts were washed with water, dried over magnesium sulfate and the solvent evaporated at reduced pressure. The residual oil weighed 15.1 g. (16% yield). A portion (2.5 g.) of the free base was dissolved in 50 ml. of isopropanol and treated with ethereal hydrogen chloride. The white crystalline salt which formed weighed 2.4 g. and melted at 193°-195° C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-acetylnipecotic acid | 0.5 mole | C(C)(=O)N1CC(C(=O)O)CCC1 | C8H13NO3
reactant | aluminum chloride | 1.0 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 3-Benzoylpiperidine hydrochloride | 16% yield | Cl.C(C1=CC=CC=C1)(=O)C1CNCCC1 | InChI=1S/C12H15NO.ClH/c14-12(10-5-2-1-3-6-10)11-7-4-8-13-9-11;/h1-3,5-6,11,13H,4,7-9H2;1H
